US06162621
10.0 g of N-Benzylazetidine-2-carboxylic acid ethyl ester, 29.6 g of t-butyl methyl ether and 26.7 g of water are mixed at 20 to 25° C. and then 0.333 g of Enzyme (Chirazyme L-2) was added thereto and the resulting solution was heated to 40° C. and stirred for 7 hours. Settled solution was separated into an aqueous phase and an organic phase. The aqueous phase was washed twice with t-butyl methyl ether to yield an aqueous solution of optically active N-benzylazetidine-2-carboxylic acid and a combined organic phase of N-benzylazetidine-2-carboxylic acid ethyl ester. Results of the same analysis as in the Example 1 is shown in Table 8.

reactant | N-Benzylazetidine-2-carboxylic acid ethyl ester | 10.0 g | C(C)OC(=O)C1N(CC1)CC1=CC=CC=C1 | C13H17NO2
reactant | t-butyl methyl ether | 29.6 g | COC(C)(C)C | C5H12O
solvent | water | 26.7 g | O | H2O
product | N-benzylazetidine-2-carboxylic acid | C(C1=CC=CC=C1)N1C(CC1)C(=O)O | C11H13NO2
